Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Acrylic Acid / lisinopril
 
Attending: ___.
 
Chief Complaint:
Morbid obesity
 
Major Surgical or Invasive Procedure:
___: laparoscopic sleeve gastrectomy

 
History of Present Illness:
___ has class III morbid obesity with weight of 282.1 pounds
as of ___ with her initial screen weight of 282.9 pounds on
___, height 62 inches and BMI of 51.6.  ___ was 
initially
evaluated in our Program ___ and ___ and was deemed
an appropriate candidate to undergo laparoscopic adjustable
gastric band procedure with Dr. ___ on ___.  Her 
high
pre-op weight was 295.9 pounds at height of 62.75 inches and BMI
of 52.9.  Her lowest weight with the lap band that she achieved
was 249.3 pounds on ___ and BMI of 44.5 represented 15.7%
total and 30% excess weight loss.  She then began to develop
issues with the lap band and an upper GI series noted slippage
and therefore the lap band and port was removed by Dr. ___ on
___.  She has subsequently gained significant weight to a
high weight of 303.5 pounds on ___.  She now wants the 
sleeve
gastrectomy procedure and she feels it would be the best option
to reduce her many co-morbid conditions such as diabetes and
obstructive sleep apnea.  She has tried in her previous weight
loss efforts Weight Watchers several times, prescription weight
loss medication Redux (now off market), Slim-Fast,
over-the-counter dietary supplement Dexatrim, ___. counseling.  She stated that her lowest adult weight was
104 pounds at the age of ___ and her highest weight prior to lap
band procedure was 296 pounds.  She weighed 253 pounds ___ years
ago, 271 pounds ___ years ago and 290 pounds one year ago.  She 
had
stated that she has been struggling with weight for the past ___
years and cites as factors contributing to her excess weight
large portions, grazing, late night eating, emotional eating
monthly, convenience eating, too many carbohydrates and 
saturated
fats including pasta, fatty foods and soda.  She is currently 
not
exercising secondary to physical limitations although she is
trying to increase her steps daily.  She denied history of 
eating
disorders - no anorexia, bulimia, diuretic or laxative abuse and
she denied binge eating.  She does have depression/anxiety and 
is
currently not seeing a therapist, she has not been hospitalized
for mental health issues and she is on psychotropic medication
(lorazepam for anxiety).

 
Past Medical History:
1. CARDIAC RISK FACTORS: +Diabetes,+Hypertension  
2. CARDIAC HISTORY:  
-CABG:  none
-PERCUTANEOUS CORONARY INTERVENTIONS:none  
-PACING/ICD:  none
3. OTHER PAST MEDICAL HISTORY:  
Morbid obesity, anemia of chronic disease
OSA not using CPAP, Pulmonary Hypertension,
Chronic Back Pain Chronic knee pain,
Cholecystitis s/p cholecystectomy, history of HEP A?, asthma, 
Fibroid Uterus
 
Social History:
___
Family History:
NO early cardiac disease. Negative for CAD
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
=======================
Physical Exam:
Vitals:  T98.7, HR ___, RR ___, 95-98% on 3L NC
GEN: NAD, A&Ox3
CV: Regular rate
PULM: Breathing comfortably, no respiratory distress
ABD: soft, non-distended.  Surgical dressings clean, dry, in
tact.  
EXTR: WWP

DISCHARGE PHYSICAL EXAM 
=======================
___ 0354 Temp: 97.6 PO BP: 126/59 L Lying HR: 76 RR: 18 O2
sat: 92% O2 delivery: Cpap 
GEN: NAD, A&Ox3
CV: Regular rate
PULM: Breathing comfortably, no respiratory distress
ABD: soft, minimally tender, minimal fullness noted to
epigastrium.  Incision sites well coapted, no areas of
dehiscence, no drainage or erythema noted, no clinical signs of
infection. 
EXTR: WWP
 
Pertinent Results:
ADMISSION LABS 
==============
___ 10:35AM BLOOD Hct-37.9
___ 03:24PM BLOOD Glucose-307* UreaN-16 Creat-0.6 Na-140 
K-4.5 Cl-99 HCO3-26 AnGap-15
___ 03:24PM BLOOD Calcium-8.9 Phos-4.9* Mg-1.6
___ 10:35AM BLOOD %HbA1c-8.6* eAG-200*

PERTINENT RESULTS 
=================
UGI SGL CONTRAST W/ KUB Study Date of ___ 9:22 AM 
IMPRESSION:  
No evidence of leak or obstruction. 

PATHOLOGY ___
PATHOLOGIC DIAGNOSIS:
Stomach, sleeve gastrectomy:
-Portion of stomach (gross examination only).
CLINICAL HISTORY: Morbid obesity.
GROSS DESCRIPTION:
The specimen is received without fixative labeled with the 
patient's name and submitted as "gastric sleeve" is a 20.5 x 4.2 
x 3.2 cm intact gastric sleeve. The serosal surface is tan-pink, 
focally hemorrhagic with a staple line present which measures 
20.5 cm. The gastric sleeve is opened to reveal a wall thickness 
averaging 0.2 cm. The mucosa is tan-pink with the usual rugal 
fold polyps orlesions are noted. The specimen is gross only and 
no sections are submitted.

DISCHARGE LABS 
==============
___ 11:10AM BLOOD Hct-39.6
 
Brief Hospital Course:
Patient Summary 
===============
___ female hx severe obesity (BMI 52) and weight related comorbid 
illness (diabetes,hypertension, sleep apnea) now s/p sleeve 
gastrectomy ___ (___), healing on trajectory, doing well 
post operatively.  

Acute Issues 
============
1. S/p sleeve gastrectomy ___ ___

Chronic Issues Pertinent to Admission
=====================================
1.  DMII - Requires ___ follow up:  ___ Dr. ___ 8:30 am
2.  GERD - Prescribed Famotidine 

Transitional Issues 
===================
1.  DMII - ___ recommendations made while in house.  ISS 
changed, and 25mg evening Lantus added on.  Patient had one 
incident of hypoglycemia to BS 69, and evening Lantus was 
removed.  Given metabolic changes post gastric sleeve, will 
likely require adjustments to home diabetes medications.  Per 
___ recommendations, discharged home with Metformin 500mg BID 
and FSBG BID, no insulin.  
2.  B/l ___ Edema - Lasix held post-operatively.  Assess at PCP 
follow up ___. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Losartan Potassium 100 mg PO DAILY 
2. omega-3-dha-epa-dpa-fish oil 1,050-1,200 mg oral ASDIR 
3. Ipratropium-Albuterol Neb 1 NEB NEB ASDIR 
4. LORazepam 1 mg PO ASDIR 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. MetFORMIN (Glucophage) 1500 mg PO DAILY 
7. amLODIPine 10 mg PO DAILY 
8. Atorvastatin 10 mg PO QPM 
9. exenatide microspheres 2 mg/0.65 mL subcutaneous 1X/WEEK 
10. insulin regular hum U-500 conc 500 unit/mL subcutaneous 
ASDIR 
11. Furosemide 40 mg PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. budesonide-formoterol 160-4.5 mcg/actuation inhalation BID 
14. Aspirin 81 mg PO DAILY 
15. albuterol sulfate 90 mcg/actuation inhalation ASDIR 
16. biotin 1 mg oral ASDIR 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 650 mg/20.3 mL 20 mL by mouth every six (6) 
hours Disp #*300 Milliliter Refills:*0 
2.  Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
3.  MetFORMIN (Glucophage) 500 mg PO BID 
RX *metformin 500 mg 1 tablet(s) by mouth twice a day Disp #*20 
Tablet Refills:*0 
4.  Metoprolol Tartrate 12.5 mg PO BID  
5.  OxycoDONE Liquid 5 mg PO Q4H:PRN Pain - Moderate 
RX *oxycodone 5 mg/5 mL 5 mL by mouth Every four hours 
Refills:*0 
6.  albuterol sulfate 90 mcg/actuation inhalation ASDIR  
7.  amLODIPine 10 mg PO DAILY  
8.  Aspirin 81 mg PO DAILY  
9.  Atorvastatin 10 mg PO QPM  
10.  biotin 1 mg oral ASDIR  
11.  budesonide-formoterol 160-4.5 mcg/actuation inhalation BID  

12.  Ipratropium-Albuterol Neb 1 NEB NEB ASDIR  
13.  Losartan Potassium 100 mg PO DAILY  
14.  Multivitamins 1 TAB PO DAILY  
15.  omega-3-dha-epa-dpa-fish oil 1,050-1,200 mg oral ASDIR  
16. HELD- exenatide microspheres 2 mg/0.65 mL subcutaneous 
1X/WEEK  This medication was held. Do not restart exenatide 
microspheres until ___ follow up
17. HELD- Furosemide 40 mg PO DAILY  This medication was held. 
Do not restart Furosemide until follow up 
18. HELD- insulin regular hum U-500 conc 500 unit/mL 
subcutaneous ASDIR  This medication was held. Do not restart 
insulin regular hum U-500 conc until ___ Follow Up. 
19. HELD- LORazepam 1 mg PO ASDIR  This medication was held. Do 
not restart LORazepam until no longer taking opioid pain 
medications

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Morbid obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions: Please call your surgeon or return to 
the Emergency Department if you develop a fever greater than 101 
F, shaking chills, chest pain, difficulty breathing, pain with 
breathing, cough, a rapid heartbeat, dizziness, severe abdominal 
pain, pain unrelieved by your pain medication, a change in the 
nature or severity of your pain, severe nausea, vomiting, 
abdominal bloating, severe diarrhea, inability to eat or drink, 
foul smelling or colorful drainage from your incisions, redness, 
swelling from your incisions, or any other symptoms which are 
concerning to you.  
 Diet: Stay on Stage III diet until your follow up appointment; 
please refer to your work book for detailed instructions. Do not 
self- advance your diet and avoid drinking with a straw or 
chewing gum. To avoid dehydration, remember to sip small amounts 
of fluid frequently throughout the day to reach a goal of 
approximately ___ mL per day. Please note the following signs 
of dehydration: dry mouth, rapid heartbeat, feeling dizzy or 
faint, dark colored urine, infrequent urination.  
 Medication Instructions:  
 Please refer to the medication list provided with your 
discharge paperwork for detailed instruction regarding your home 
and newly prescribed medications.  
 Some of the new medications you will be taking include:  
 1. Pain medication: You will receive a prescription for liquid 
oxycodone, an opioid pain medication. This medication will make 
you drowsy and impair your ability to drive a motor vehicle or 
operate machinery safely. You MUST refrain from such activities 
while taking these medications. You may also take acetaminophen 
(Tylenol) for pain management; do not exceed 4000 mg per 24 hour 
period.  
 2. Constipation: This is a common side effect of opioid pain 
medication. If you experience constipation, please reduce or 
eliminate opioid pain medication. You may trial 2 ounces of 
light prune juice and/or a stool softener (i.e. crushed docusate 
sodium tablets), twice daily until you resume a normal bowel 
pattern. Please stop taking this medication if you develop loose 
stools. Please do not begin taking laxatives including until you 
have discussed it with your nurse or surgeon.  
 3. Antacids: You will be taking famotidine tablets, 20 mg twice 
daily, for one month. This medicine reduces stomach acid 
production. Please crush.  
 4. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs). Examples include, but are not limited to Aleve, 
Arthrotec, aspirin, Bufferin, diclofenac, Ecotrin, etodolac, 
ibuprofen, Indocin, indomethacin, Feldene, ketorolac, 
meclofenamate, meloxicam, Midol, Motrin, nambumetone, Naprosyn, 
Naproxen, Nuprin, oxaprozin, Piroxicam, Relafen, Toradol and 
Voltaren. These agents may cause bleeding and ulcers in your 
digestive system. If you are unclear whether a medication is 
considered an NSAID, please ask call your nurse or ask your 
pharmacist.  
 5. Vitamins/ minerals: You may resume a chewable multivitamin, 
however, please discuss when to resume additional vitamin and 
mineral supplements with your bariatric dietitian.  
 Activity:  
 You should continue walking frequently throughout the day right 
after surgery; you may climb stairs.  
 You may resume moderate exercise at your discretion, but avoid 
performing abdominal exercises or lifting items greater than10 
to 15 pounds for six weeks.  
 Wound Care:  
 You may remove any remaining gauze from over your incisions. 
You will have thin paper strips (Steri-Strips) over your 
incision; please, remove any remaining Steri-Strip seven to 10 
days after surgery.  
 You may shower 48 hours following your surgery; avoid scrubbing 
your incisions and gently pat them dry. Avoid tub baths or 
swimming until cleared by your surgeon.  
 If there is clear drainage from your incisions, cover with 
clean, dry gauze.  
 Please call the doctor if you have increased pain, swelling, 
redness, cloudy, bloody or foul smelling drainage from the 
incision sites.  
 Avoid direct sun exposure to the incision area for up to 24 
months.  
 Do not use any ointments on the incision unless you were told 
otherwise.  
 
Followup Instructions:
___